US06184225B2
1,2-Dibromoethane (19.2 ml, 286 mmol) was added to 7-hydroxy-6-methoxy-4-phenoxyquinazoline (6.0 g, 22 mmol), (prepared as described for the starting material in Example 16), and potassium carbonate (14.4 g, 107 mmol) in DMF. The mixture was stirred at 85° C. for 2.5 hours, allowed to cool and insoluble material was removed by filtration. The solvent was removed by evaporation and the residue purified by column chromatography eluting with methylene chloride/methanol (93/7). The product was trituated with ethyl acetate to give 7-(2-bromoethoxy)-6-methoxy-4-phenoxyquinazoline (5.3 g, 63%). A mixture of 7-(2-bromoethoxy)-6-methoxy-4-phenoxyquinazoline (2.0 g, 5.3 mmol) in thiomorpholine (15 ml) was stirred at ambient temperature for 5 hours. The mixture was diluted with water and the resulting precipitate collected by filtration. The solid product was dissolved in methylene chloride, washed with brine and passed through phase separating paper. The solvent was removed by evaporation to give 6-methoxy-4-phenoxy-7-(2-thiomorpholinoethoxy)quinazoline (2.0 g, 94%) as a pale yellow solid.

reactant | 7-(2-bromoethoxy)-6-methoxy-4-phenoxyquinazoline | 5.3 mmol, 2.0 g | BrCCOC1=C(C=C2C(=NC=NC2=C1)OC1=CC=CC=C1)OC | C17H15BrN2O3
reactant | thiomorpholine | 15 ml | N1CCSCC1 | C4H9NS
solvent | water | O | H2O
product | 6-methoxy-4-phenoxy-7-(2-thiomorpholinoethoxy)quinazoline | 2.0 g, 94% | COC=1C=C2C(=NC=NC2=CC1OCCN1CCSCC1)OC1=CC=CC=C1 | C21H23N3O3S
